US03957782
1-Ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid, cyanomethyl ester
5.8 g. of the sodium salt of 1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid (0.02 mol.), 1.7 g. of chloroacetonitrile (0.22 mol.) and 70 ml. of dry dimethyl-formamide are heated in an autoclave at 120° for 5 hours. After vacuum removal of the solvent, the residual 1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid, cyano-methyl ester is treated with water, filtered off, again treated with alcohol and then recrystallized from ethanol, yield 3.9 g. (64%), m.p. 102°-103°.

reactant | sodium | [Na] | Na
reactant | 1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid | 0.02 mol | C(C)N1N=CC=2C1=NC(=C(N2)C(=O)O)C2=CC=CC=C2 | C14H12N4O2
reactant | chloroacetonitrile | 0.22 mol | ClCC#N | C2H2ClN
solvent | dimethyl-formamide | CN(C=O)C | C3H7NO
product | 1-Ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid, cyanomethyl ester | C(C)N1N=CC=2C1=NC(=C(N2)C(=O)OCC#N)C2=CC=CC=C2 | C16H13N5O2
